US08071807B2
[3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester was reduced to the amine according to the procedure described in Example 11, Step 2. The amine was treated with 4-chlorobenzoyl chloride to provide {3-[4-(4-Chloro-benzoylamino)-2-isopropylsulfanylmethyl-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester. Hydrolysis of the ester as outlined in Example 11, Step 4 provided the acid.

reactant | [3-(2-isopropylsulfanylmethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CSC(C)C)=O | C21H25NO6S
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | {3-[4-(4-Chloro-benzoylamino)-2-isopropylsulfanylmethyl-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CSC(C)C)=O | C28H30ClNO5S
